* extracted by klt extract --deck sg13g2

* cell vco_pfet_w6_l1
.SUBCKT vco_pfet_w6_l1
* device instance $1 r0 *1 0.92,3 pfet
M$1 \$2 \$5 \$1 \$7 pfet L=1U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $2 r0 *1 3.16,3 pfet
M$2 \$4 \$6 \$3 \$7 pfet L=1U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
.ENDS vco_pfet_w6_l1
